US06331538B1
1-Ethyl-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione;
7-(3-Aminopyrrolidin-1-yl)-1-ethyl-6-fluoro-3-hydroxy-1H-pyrido[2,3-d]pyrimidine-2,4-dione, trifluoroacetate;

reactant | 7-(3-Aminopyrrolidin-1-yl)-1-ethyl-6-fluoro-3-hydroxy-1H-pyrido[2,3-d]pyrimidine-2,4-dione | NC1CN(CC1)C=1C(=CC2=C(N(C(N(C2=O)O)=O)CC)N1)F | C13H16FN5O3
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 1-Ethyl-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione | C(C)N1C(N(C(C2=C1N=C(C(=C2)F)N2CCN(CC2)C)=O)O)=O | C14H18FN5O3
